US06043269
(±)-5-(cis-7-Methoxy-3-(4-methylphenyl)-chroman-4-yl)-2-methyl-benzoxazole
To a stirred mixture of (±)-cis4-(3-amino-4-hydroxyphenyl)-7-methoxy-3-(4-methylphenyl)-chromane hydrochloride (0.475 g, 1.19 mmol), triethylamine (0.173 ml, 1.25 mmol) and acetic acid (15 ml) was heated to gentle reflux for 18 h., giving a deep red coloured mixture. This was cooled to room temperature, poured into water (100 ml) and the product extracted into ethyl acetate (2×100 ml). The combined extracts were washed with water (6×50 ml), brine, dried over magnesium sulfate and evaporated to give a dark gum. This was purified by column chromatography on silica gel 60, with a 1:1 petrol/ethyl acetate eluent. This gave the product, on vacuum drying, as a stable pale pink coloured foam.

reactant | (±)-cis4-(3-amino-4-hydroxyphenyl)-7-methoxy-3-(4-methylphenyl)-chromane hydrochloride | 1.19 mmol, 0.475 g | Cl.NC=1C=C(C=CC1O)[C@@H]1[C@@H](COC2=CC(=CC=C12)OC)C1=CC=C(C=C1)C
reactant | triethylamine | 1.25 mmol, 0.173 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | (±)-5-(cis-7-Methoxy-3-(4-methylphenyl)-chroman-4-yl)-2-methyl-benzoxazole | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=C(C=C1)C)C=1C=CC2=C(N=C(O2)C)C1 | C25H23NO3
